US06531502B1
5-Formyl-4-(2-methoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (80.2 g), 2-oxindole (37.9 g) and ethanol (300 mL) were warmed to 70° C. in a 500 mL, 3-neck round bottom flask equipped with mechanical stirring and a reflux condenser. Piperidine (1.3 g) was added and the mixture was refluxed for 4 hours. The mixture was cooled to 10° C. and the orange precipitate collected by vacuum filtration and washed with 30 mL of ethanol. The solid was slurry-washed in 150 mL of refluxing ethanol, cooled, collected by vacuum filtration, washed with 30 mL of ethanol and vacuum dried to give 81.7 g (75%) of 4-(2-Methoxycarbonylethyl)-3-methyl-5-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid ethyl ester as an orange solid.

reactant | 5-Formyl-4-(2-methoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 80.2 g | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)OC)C=O | C13H17NO5
reactant | 2-oxindole | 37.9 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
catalyst | Piperidine | 1.3 g | N1CCCCC1 | C5H11N
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 4-(2-Methoxycarbonylethyl)-3-methyl-5-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid ethyl ester | 81.7 g, 75% | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)OC)C=C1C(NC2=CC=CC=C12)=O | C21H22N2O5
